US08426602B2
2-Amino-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-4-(2-iodo-1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile
Under argon, 230 mg (0.493 mmol) of 2-amino-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-4-(1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile were dissolved in 15 ml of THF and cooled to −78° C. At this temperature, 1.182 ml (1.182 mmol) of lithium 1,1,1,3,3,3-hexamethyldisilazan-2-ide (1 M in THF) were added dropwise. After 1 h of stirring at −78° C., a solution of 0.143 ml (1.084 mmol) of 1,2-diiodethane in 5 ml of THF was added dropwise, and the reaction mixture was stirred at −78° C. for a further hour. The reaction was terminated by addition of 20 ml of 10% strength aqueous sodium thiosulfate solution. After the mixture had warmed to room temperature, the aqueous phase was extracted three times with dichloromethane. The combined organic phases were dried over sodium sulfate, filtered and concentrated. The residue was purified by preparative HPLC (mobile phase A=water, B=acetonitrile; gradient: 0.0 min 10% B, 30 min 95% B, 34 min 95% B, 34.01 min 10% B, 38 min 10% B; flow rate: 50 ml/min; +0.1% TFA). The solid which had precipitated from the acetonitrile/water mixture was filtered off and dried under high vacuum. This gave 60 mg of the target compound in a purity of 76% (yield: 15% of theory).

reactant | 2-amino-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-4-(1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile | 0.493 mmol, 230 mg | NC1=NC(=C(C(=C1C#N)C1=CN=CS1)C#N)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C20H11ClN6S3
reactant | lithium 1,1,1,3,3,3-hexamethyldisilazan-2-ide | 1.182 mmol, 1 M, 1.182 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 1,2-diiodethane | 1.084 mmol, 0.143 ml | ICCI | C2H4I2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-Amino-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-4-(2-iodo-1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile | yield: 15% | NC1=NC(=C(C(=C1C#N)C1=CN=C(S1)I)C#N)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C20H10ClIN6S3
